US09353096B2
(R)-1-(4-chloro-3-fluorophenyl)-2-(2-hydroxyethylamino)ethanol (2.06 g, 8.82 mmol) was dissolved in 50 mL of dichloromethane. To this stirred solution was added di-tert-butyl dicarbonate (1.92 g, 8.82 mmol) in dichloromethane (6 mL). The solution was stirred at room temperature overnight. Solvents were evaporated and the residue was purified by ISCO flash column chromatography (0% to 60% ethyl acetate in hexanes gradient) to afford (R)-tert-butyl 2-(4-chloro-3-fluorophenyl)-2-hydroxyethyl(2-hydroxyethyl)carbamate a colorless oil (2.50 g). Product was used as is in the next step.

reactant | (R)-1-(4-chloro-3-fluorophenyl)-2-(2-hydroxyethylamino)ethanol | 8.82 mmol, 2.06 g | ClC1=C(C=C(C=C1)[C@H](CNCCO)O)F | C10H13ClFNO2
reactant | di-tert-butyl dicarbonate | 8.82 mmol, 1.92 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | (R)-tert-butyl 2-(4-chloro-3-fluorophenyl)-2-hydroxyethyl(2-hydroxyethyl)carbamate | ClC1=C(C=C(C=C1)[C@H](CN(C(OC(C)(C)C)=O)CCO)O)F | C15H21ClFNO4
